### PR TITLE
Prove sai_invs', rai_invs' and ri_invs'

### PR DESCRIPTION
**Pull request by ryybrr**
Moved around some lemmas to make the proofs work. Additionally, found an unneeded lemma in AInvs to do with `sort_queue`.

### CODE REVIEW

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -2869,99 +2869,398 @@ crunches cancelIPC
   for ResumeCurrentThread_imp_notct[wp]: "\<lambda>s. ksSchedulerAction s = ResumeCurrentThread
                                           \<longrightarrow> ksCurThread s \<noteq> t"
 
+lemma tcbEPFindIndex_inv[wp]:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2872]: I think I moved a few of these lemmas in my PR for `receiveSignal_corres`. So you might need to hunt around for some of these after you've rebased. Soz

File: proof/refine/ARM/Ipc_R.thy [hunk 2]
```diff
@@ -2869,99 +2869,398 @@ crunches cancelIPC
...
+lemma tcbEPDequeue_rv_wf'':
+  "\<lbrace>P (ep_q_refs_of' (updateEpQueue ep q)) and K (t \<in> set q \<and> distinct q \<and> ep \<noteq> IdleEP)\<rbrace>
+   tcbEPDequeue t q
+   \<lbrace>\<lambda>rv. P (ep_q_refs_of' (updateEpQueue ep (t#rv)))\<rbrace>"
+  by (cases ep; wpsimp wp: tcbEPDequeue_rv_wf' simp: Times_Diff_distrib1 insert_absorb updateEpQueue_def)
+
+lemma tcbEPAppend_not_null[wp]:
+  "\<lbrace>\<top>\<rbrace> tcbEPAppend t q \<lbrace>\<lambda>rv _. rv \<noteq> []\<rbrace>"
+  apply (simp only: tcbEPAppend_def)
+  apply (wpsimp)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2935]: Unnecessary brackets

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -2869,99 +2869,398 @@ crunches cancelIPC
...
+        ex_nonz_cap_to' tcbPtr s \<and> ex_nonz_cap_to' scPtr s\<rbrace>
+   schedContextDonate scPtr tcbPtr
+   \<lbrace>\<lambda>_. if_live_then_nonz_cap'\<rbrace>"
+  unfolding schedContextDonate_def
+  by (wpsimp wp: threadSet_iflive'T setSchedContext_iflive' hoare_vcg_all_lift threadSet_cap_to'
+           simp: conj_ac cong: conj_cong | wp hoare_drop_imps | fastforce simp: tcb_cte_cases_def)+
+
+lemma schedContextDonate_valid_idle':
+  "\<lbrace>\<lambda>s. valid_idle' s \<and> tcbPtr \<noteq> idle_thread_ptr \<and>
+        obj_at' (\<lambda>x. scTCB x \<noteq> Some idle_thread_ptr) scPtr s\<rbrace>
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3070]: A variable name that's more informative would be nice, rather than `x`

**Review by michaelmcinerney — APPROVED** [review]
Good to see `sym_refs_asrt` getting some more love.

I think I nitpicked on something you had just moved from elsewhere. If so, feel free to ignore it

**Review by mktnk3 — APPROVED** [review]
Nicely done! As Michael said, 👍 for the more use of `sym__refs_asrt`.

File: proof/invariant-abstract/IpcDet_AI.thy [hunk 4]
```diff
@@ -2544,13 +2539,13 @@ lemma rai_invs':
...
-                    wp: maybe_return_sc_schedule_tcb sort_queue_ntfn_bound_tcb sts_only_idle
-                        sts_valid_replies sts_fault_tcbs_valid_states
+    apply (clarsimp cong: conj_cong
+           | wpsimp wp: maybe_return_sc_schedule_tcb  sts_only_idle sts_valid_replies
+                        sts_fault_tcbs_valid_states valid_ioports_lift
                         valid_irq_node_typ[where f="as_user t f" for t f]
-                        valid_ioports_lift)
+                  simp: invs_def valid_state_def valid_pspace_def valid_tcb_state_def
+                        valid_ntfn_def live_ntfn_def live_def do_nbrecv_failed_transfer_def
+           | rule_tac R="\<lambda>_ _. ntfn_bound_tcb notification = None" in hoare_post_add)+
```
Comment (corlewis) [inline proof/invariant-abstract/IpcDet_AI.thy:2548]: I'm a bit worried about this `hoare_post_add`. If something changes and this step doesn't solve the hoare triples this will loop won't it?

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -2869,99 +2869,398 @@ crunches cancelIPC
...
+  apply (rule_tac x=tcb in exI, clarsimp)
+  apply (erule if_live_then_nonz_capE'[OF invs_iflive'])
+  apply (drule_tac ko="ntfn :: notification" for ntfn in sym_refs_ko_atD'[rotated])
+   apply (fastforce simp: obj_at'_def projectKOs)
+  apply (auto simp: refs_of_rev' ko_wp_at'_def live_sc'_def)
+  done
+
 lemma sai_invs'[wp]:
   "\<lbrace>invs' and ex_nonz_cap_to' ntfnptr\<rbrace>
      sendSignal ntfnptr badge \<lbrace>\<lambda>y. invs'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3221]: While you're here, indentation.

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -4006,96 +4291,112 @@ lemma ri_invs' [wp]:
   done
   *)
 
-(* t = ksCurThread s *)
+crunches maybeReturnSc
+  for tcb_at'[wp]: "tcb_at' t"
+  and valid_ntfn'[wp]: "valid_ntfn' ntfn"
+  and valid_bound_sc'[wp]: "valid_bound_sc' sc"
+  and valid_bound_tcb'[wp]: "valid_bound_tcb' tcb"
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:4298]: You can probably get these (and more) with
```
global_interpretation maybeReturnSc: typ_at_all_props' "maybeReturnSc ntfnPtr tcbPtr"
  by typ_at_props'
```

**Review by corlewis — APPROVED** [review]
Great work! There's one line that I'm a bit uncomfortable with, but otherwise just nitpicks.

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -5223,26 +5274,268 @@ lemma replyPush_sch_act_wf:
...
+  apply (wpsimp wp: updateReply_wp_all gts_wp' simp: replyUnlink_def)
+  apply (auto simp: obj_at'_def projectKOs objBitsKO_def)
+  done
+
+lemma updateReply_replyPrev_replyTCB_None[wp]:
+  "updateReply r (replyPrev_update f) \<lbrace>obj_at' (\<lambda>reply. replyTCB reply = None) rptr\<rbrace>"
+  by (wp updateReply_wp_all) (auto simp: obj_at'_def projectKOs objBitsKO_def)
+
+lemma updateReply_replyNext_replyTCB_None[wp]:
+  "updateReply r (replyNext_update f) \<lbrace>obj_at' (\<lambda>reply. replyTCB reply = None) rptr\<rbrace>"
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:5378]: There is `updateReply_obj_at’_inv` that should be able to handle these two cases.

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -5223,26 +5274,268 @@ lemma replyPush_sch_act_wf:
...
+   \<lbrace>\<lambda>_ s. Q (st_tcb_at' P t s)\<rbrace>"
+  unfolding blockedCancelIPC_def getBlockingObject_def
+  by (wpsimp wp: sts_st_tcb_at'_cases_strong replyUnlink_st_tcb_at' getEndpoint_wp hoare_vcg_imp_lift')
+
+lemma replyRemoveTCB_st_tcb_at'_cases:
+  "\<lbrace>\<lambda>s. (t = t' \<longrightarrow> Q (P Inactive)) \<and> (t \<noteq> t' \<longrightarrow> Q (st_tcb_at' P t s))\<rbrace>
+   replyRemoveTCB t'
+   \<lbrace>\<lambda>_ s. Q (st_tcb_at' P t s)\<rbrace>"
+  unfolding replyRemoveTCB_def cleanReply_def
+  by (wpsimp wp: replyUnlink_st_tcb_at' gts_wp' hoare_vcg_imp_lift')
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:5337]: Something very similar exists in Reply_R. Can you please generalise that one rather than adding a new one here?

File: proof/refine/ARM/Ipc_R.thy [hunk 9]
```diff
@@ -5223,26 +5274,268 @@ lemma replyPush_sch_act_wf:
...
-  "\<lbrace>\<lambda>s. invs' s \<and> tcb_at' t s \<and> ex_nonz_cap_to' t s\<rbrace>
-   setThreadState Running t
+lemma setEndpoint_invs':
+  "\<lbrace>invs' and valid_ep' ep and ex_nonz_cap_to' eptr\<rbrace> setEndpoint eptr ep \<lbrace>\<lambda>_. invs'\<rbrace>"
+  by (wpsimp simp: invs'_def valid_state'_def comp_def)
+
+lemma setSchedContext_valid_ep'[wp]:
+  "setSchedContext param_a param_b \<lbrace>valid_ep' ep\<rbrace>"
+  unfolding valid_ep'_def
+  by (cases ep; wpsimp wp: hoare_vcg_ball_lift)
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:5298]: Something like `set_sc’.typ_at_sc_at’_n_lifts’` can probably work instead of this, but I am not too sure.

File: proof/refine/ARM/Ipc_R.thy [hunk 10]
```diff
@@ -5223,26 +5274,268 @@ lemma replyPush_sch_act_wf:
...
+
+lemma threadSet_valid_ep'[wp]:
+  "threadSet f tptr \<lbrace>valid_ep' ep\<rbrace>"
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:5301]: Similarly for this one.

File: proof/refine/ARM/Ipc_R.thy [hunk 11]
```diff
@@ -5223,26 +5274,268 @@ lemma replyPush_sch_act_wf:
...
+
+crunches cancelIPC
+  for sch_act_not[wp]: "sch_act_not t"
+  and ep_at'[wp]: "\<lambda>s. P (ep_at' eptr s)"
+  and valid_bound_reply'[wp]: "valid_bound_reply' reply"
+  (wp: crunch_wps simp: crunch_simps)
+
+lemma setReply_valid_ep'[wp]:
+  "setReply rptr r \<lbrace>valid_ep' ep\<rbrace>"
+  unfolding setReply_def valid_ep'_def
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:5438]: This one, too. Would `set_reply'.typ_at_sc_at’_n_lifts’` work instead? With some simplification?

File: proof/refine/ARM/Ipc_R.thy (hunk 8 above)
Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:5337]: I think this was my intention, but I forgot to make a note

File: proof/refine/ARM/Ipc_R.thy [hunk 12]
```diff
@@ -5011,6 +5067,17 @@ crunches replyPush
   and valid_queues'[wp]: valid_queues'
   (wp: crunch_wps hoare_vcg_all_lift valid_irq_node_lift simp: crunch_simps valid_mdb'_def)
 
+lemma valid_tcb_state'_update[simp]:
+  "valid_tcb_state' ts (s\<lparr>ksReadyQueues := qs\<rparr>) = valid_tcb_state' ts s"
+  "valid_tcb_state' ts (s\<lparr>ksReadyQueuesL1Bitmap := l1b\<rparr>) = valid_tcb_state' ts s"
+  "valid_tcb_state' ts (s\<lparr>ksReadyQueuesL2Bitmap := l2b\<rparr>) = valid_tcb_state' ts s"
+  by (auto simp: valid_tcb_state'_def valid_bound_obj'_def split: thread_state.splits option.splits)
+(* ryanb - remove if unneeded
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:5075]: Just a small nitpick. Is this meant to be removed? And, I feel like the equalities above exist somewhere, but i am not sure.
Other than this, this looks great, ready to go.

Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:5075]: Yep, was planning to remove this once the tests pass assuming there were no other comments.
